US04362728
A mixture of 2-[2-(2,2,2-trifluoroethyl)-guanidino]-4-[5-(3-cyano-2-methylisothioureido)pentyl]-thiazole (0.5 g.) and 1,2-diaminoethane (1.5 ml.) in ethanol (1 ml.) was allowed to stand at room temperature overnight. The mixture was then evaporated to dryness and the residue purified by preparative medium pressure liquid chromatography on silica gel using methanol/chloroform 1:4 v/v as solvent to give 2-[2-(2,2,2-trifluoroethyl)guanidino]-4-[5-(3-cyano-2-[2-aminoethyl]guanidino)pentyl]thiazole as a straw coloured gum. A sample of the salt prepared with maleic acid included the following n.m.r. resonances when examined in d6 dimethylsulphoxide containing tetramethylsilane as an internal standard (δ=0) (δ):-1.5 (multiplet, 6H); 3.0 (multiplet, 4H); 3.3 (multiplet, 2H); 4.1 (multiplet, 2H); 6.5 (singlet, 1H).

reactant | 2-[2-(2,2,2-trifluoroethyl)-guanidino]-4-[5-(3-cyano-2-methylisothioureido)pentyl]-thiazole | 0.5 g | FC(CN=C(NC=1SC=C(N1)CCCCCNC(SC)=NC#N)N)(F)F | C14H20F3N7S2
reactant | 1,2-diaminoethane | 1.5 ml | NCCN | C2H8N2
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 2-[2-(2,2,2-trifluoroethyl)guanidino]-4-[5-(3-cyano-2-[2-aminoethyl]guanidino)pentyl]thiazole | FC(CN=C(NC=1SC=C(N1)CCCCCNC(=NCCN)NC#N)N)(F)F | C15H24F3N9S
